US09315475B2
Step 9: Preparation of tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate
To tert-butyl (2R,5S)-2-[2-(2-aminophenyl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate (1 eq.) in DMF (0.15 M) at rt was added N-(methoxycarbonyl)-β-phenyl-L-phenylalanine (1.1 eq.), HATU (1.4 eq.) and 2,6-lutidine (3 eq.). The reaction mixture was stirred at rt for 16 h and diluted with EtOAc and saturated aqueous NaHCO3. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by automated SiO2 flash chromatography system using solvent gradient of 10% to 100% EtOAc/Hex to afford the desired compound.

reactant | tert-butyl (2R,5S)-2-[2-(2-aminophenyl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | 1 eq. | NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C24H42N2O4Si
reactant | N-(methoxycarbonyl)-β-phenyl-L-phenylalanine | 1.1 eq. | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | HATU | 1.4 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2,6-lutidine | 3 eq. | N1=C(C=CC=C1C)C | C7H9N
solvent | DMF | 0.15 M | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H57N3O7Si
